US04268676
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-allylamino-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate
To a solution of 100 mg (0.28 mmol) of mitomycin A in 8 ml of anhydrous methanol, 150 mg (2.6 mmol) of allylamine was added with constant stirring. The reaction mixture was stirred overnight whereupon TLC indicated the absence of starting material. The solvent was then evaporated under reduced pressure and the residue was chromatographed using silica-gel as adsorbent. The fraction obtained by eluting the column from ethyl acetate was evaporated under reduced pressure. Recrystallization from a mixture of methylene chloride and hexane gave 29 mg (27.0% yield) of the desired product as purple-colored crystals having a melting point of 81°-82° (decomposing) and providing the following analysis:

reactant | mitomycin A | 0.28 mmol, 100 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | allylamine | 2.6 mmol, 150 mg | C(C=C)N | C3H7N
solvent | methanol | 8 ml | CO | CH4O
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-allylamino-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate | 29 mg, 27.0% yield | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)NCC=C)C)=O)CC1C2N1)OC | InChI=1S/C17H21N3O4.CH3NO2/c1-4-5-18-12-8(2)14(22)13-11(15(12)23)9(7-21)17(24-3)16-10(19-16)6-20(13)17;2-1(3)4/h4,9-10,16,18-19,21H,1,5-7H2,2-3H3;2H2,(H,3,4)
